### PR TITLE
[Merged by Bors] - feat(GroupTheory/GroupAction/MultiplePretransitivity): define multiply transitive actions

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This PR defines multiply transitive actions and proves the first basic lemmas about them.

* `MulAction.IsMultiplyPretransitive`:
An multiplicative action of a group `G` on a type `α` is n-transitive
if the action of `G` on `Fin n ↪ α` is pretransitive.

* Any action is 0-pretransitive

* `MulAction.is_one_pretransitive_iff` :
An action is 1-pretransitive iff it is pretransitive

* `MulAction.is_two_pretransitive_iff` :
An action is 2-pretransitive if for any `a`, `b`, `c`, `d`, such that
`a ≠ b` and `c ≠ d`, there exist `g : G` such that `g • a = b` and `g • c = d`.

* `MulAction.isMultiplyPretransitive_of_le` :
If an action is `n`-pretransitive, then it is `m`-pretransitive for all `m ≤ n`.

## Remarks on implementation

These results are results about actions on types `n ↪ α` induced by an action
on `α`, and some results are developed in this context.

---

- [x] depends on: #24167 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 1]
```diff
@@ -0,0 +1,348 @@
...
+
+/-- The natural equivariant map from `n ↪ α` to `m ↪ α` given by an embedding
+`e : m ↪ n`. -/
+@[to_additive
+"The natural equivariant map from `n ↪ α` to `m ↪ α` given by an embedding `e : m ↪ n`."]
+def embMap {m n : Type*} (e : m ↪ n) : (n ↪ α) →[G]  (m ↪ α) where
+  toFun i := e.trans i
+  map_smul' _ _ := rfl
+
+theorem _root_.Function.Embedding.giveMeAName'
```
Comment (D-Thomine) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:274]: Thanks for your work. I am not going to review the whole files, but I noticed that there are multiple `giveMeAName` (here and below).

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: I found names, and took the construction out of the existence lemma.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 2]
```diff
@@ -29,7 +29,6 @@ open Function.Embedding Fin Set Nat
 namespace Fin.Embedding
 
 variable {α : Type*}
-
```
Comment (riccardobrasca) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:32]: I guess we want this empty line.

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 3]
```diff
@@ -65,11 +64,13 @@ theorem init_snoc {n : ℕ} (x : Fin n ↪ α) {a : α} (ha : a ∉ range x) :
   apply coe_injective
   simp [snoc, init, init_snoc]
 
-theorem snoc_castSucc {n : ℕ} {x : Fin n ↪ α} {a : α} {ha : a ∉ range ⇑x} {i : Fin n} :
+theorem snoc_castSucc {n : ℕ} {x : Fin n ↪ α}
+    {a : α} {ha : a ∉ range ⇑x} {i : Fin n} :
```
Comment (riccardobrasca) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:68]:
```suggestion
    {a : α} {ha : a ∉ range x} {i : Fin n} :
```

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 4]
```diff
@@ -65,11 +64,13 @@ theorem init_snoc {n : ℕ} (x : Fin n ↪ α) {a : α} (ha : a ∉ range x) :
...
     snoc x ha i.castSucc  = x i := by
   rw [coe_snoc, Fin.snoc_castSucc]
 
-theorem snoc_last {n : ℕ} {x : Fin n ↪ α} {a : α} {ha : a ∉ range ⇑x} :
+theorem snoc_last {n : ℕ} {x : Fin n ↪ α}
+    {a : α} {ha : a ∉ range ⇑x} :
```
Comment (riccardobrasca) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:73]:
```suggestion
    {a : α} {ha : a ∉ range x} :
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 5]
```diff
@@ -0,0 +1,353 @@
...
+
+-/
+
+open MulAction MulActionHom Function.Embedding Fin Set Nat
+
+namespace Fin.Embedding
+
+variable {α : Type*}
+
+theorem exists_embedding_disjoint_range_of_add_le_ENat_card
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:48]: Can you move this to a more basic file?

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 6]
```diff
@@ -0,0 +1,353 @@
...
+    {s : Set α} [Finite s] {n : ℕ} (hs : s.ncard + n ≤ ENat.card α) :
+    ∃ y : Fin n ↪ α, Disjoint s (range y) := by
+  suffices Nonempty (Fin n ↪ (sᶜ : Set α)) by
+    obtain ⟨y⟩ := this
+    use y.trans (subtype _)
+    rw [Set.disjoint_right]
+    rintro _ ⟨i, rfl⟩
+    simp only [trans_apply, subtype_apply, ← mem_compl_iff]
+    exact Subtype.coe_prop (y i)
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:57]:
```suggestion
    simpa only [trans_apply, subtype_apply, ← mem_compl_iff] using Subtype.coe_prop (y i)
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 7]
```diff
@@ -0,0 +1,353 @@
...
+  rcases finite_or_infinite α with hα | hα
+  · have _ : Fintype α := Fintype.ofFinite α
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:59]:
```suggestion
  · let _ : Fintype α := Fintype.ofFinite α
```
'have' works, but sooner or later we will have a linter for this.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 8]
```diff
@@ -0,0 +1,353 @@
...
+    classical
+    apply Function.Embedding.nonempty_of_card_le
+    rwa [Fintype.card_fin, ← add_le_add_iff_left s.ncard,
+      ← Nat.card_eq_fintype_card, Set.Nat.card_coe_set_eq,
+        Set.ncard_add_ncard_compl, ← ENat.coe_le_coe,
+        ← ENat.card_eq_coe_natCard, ENat.coe_add]
+  · exact ⟨valEmbedding.trans s.toFinite.infinite_compl.to_subtype.natEmbedding⟩
+
+theorem restrictSurjective_of_add_le_ENatCard
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:68]: Can you move this to a more basic file?

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 9]
```diff
@@ -0,0 +1,353 @@
...
+    {m n : ℕ} (hn : m + n ≤ ENat.card α) :
+    Function.Surjective (fun (x : Fin (m + n) ↪ α) ↦ (Fin.castAddEmb n).trans x) := by
+  intro x
+  obtain ⟨y : Fin n ↪ α, hxy⟩ :=
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:72]:
```suggestion
  obtain ⟨y, hxy⟩ :=
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 10]
```diff
@@ -0,0 +1,353 @@
...
+    exists_embedding_disjoint_range_of_add_le_ENat_card (s := range x)
+      (by simpa [← Set.Nat.card_coe_set_eq, Nat.card_range_of_injective x.injective])
+  use append hxy
+  ext i
+  simp [trans_apply, coe_castAddEmb, append]
+
+theorem restrictSurjective_of_add_le_natCard
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:79]: Same.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 11]
```diff
@@ -0,0 +1,353 @@
...
+section Functoriality
+
+variable {G α : Type*} [Group G] [MulAction G α]
+variable {H β : Type*} [Group H] [MulAction H β]
+variable {σ : G → H} {f : α →ₑ[σ] β} {ι : Type*}
+
+/-- An injective equivariant map `α →ₑ[σ] β` induces
+an equivariant map on embedding types (ι ↪ α) → (ι ↪ β) -/
+@[to_additive "An injective equivariant map `α →ₑ[σ] β` induces
+an equivariant map on embedding types (ι ↪ α) → (ι ↪ β)"]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:96]:
```suggestion
/-- An injective equivariant map `α →ₑ[σ] β` induces
an equivariant map on embedding types `(ι ↪ α) → (ι ↪ β).` -/
@[to_additive "An injective equivariant map `α →ₑ[σ] β` induces
an equivariant map on embedding types `(ι ↪ α) → (ι ↪ β)`."]
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 12]
```diff
@@ -0,0 +1,353 @@
...
+def Function.Injective.mulActionHom_embedding (hf : Function.Injective f) :
+    (ι ↪ α) →ₑ[σ] (ι ↪ β) where
+  toFun x := ⟨f.toFun ∘ x.toFun, hf.comp x.inj'⟩
+  map_smul' m x := by
+    ext i
+    simp only [smul_apply, coeFn_mk, Function.comp_apply, toFun_eq_coe, smul_apply]
+    rw [f.map_smul']
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:103]:
```suggestion
    simp [f.map_smul']
```

**Review by riccardobrasca — COMMENTED** [review]
I will try to have a look at the rest during the weekend.

File: Mathlib/Data/Fin/Basic.lean [hunk 13]
```diff
@@ -1395,6 +1395,9 @@ lemma eq_one_of_ne_zero (i : Fin 2) (hi : i ≠ 0) : i = 1 := by fin_omega
 @[deprecated (since := "2025-04-27")]
 alias eq_one_of_neq_zero := eq_one_of_ne_zero
 
+lemma eq_zero_or_one (i : Fin 2) : i = 0 ∨ i = 1 := by
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Fin/Basic.lean:1398]: Not anymore, thanks.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:66]: It's not clear which. The `#min_imports` says I need
```
import Mathlib.Data.ENat.Lattice
import Mathlib.Data.Fin.Tuple.Embedding
import Mathlib.Data.Finite.Card
import Mathlib.Data.Set.Card
import Mathlib.Order.CompletePartialOrder
```

but `Mathlib.Data`-whatever  looks too early to me.

Comment (riccardobrasca) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:66]: You should use `find_home!`, not `min_imports` for that (`min_imports` gives you a minimal set of `imports`, so you need *all* of them to make the proof working).

`Mathlib.GroupTheory.Index` seems to work for `exists_embedding_disjoint_range_of_add_le_ENat_card`, and maybe it also works for `restrictSurjective_of_add_le_ENatCard` if you add `import Mathlib.Data.Fin.Tuple.Embedding` (that is probably very light).

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:66]: I had seen that `Mathlib.GroupTheory.Index` works, this is what is indicated by `#find_home!`, but I don't believe this is the right place because these lemmas have nothing to do with indices of subgroups, and nobody will think of looking there.
Maybe `Mathlib.SetTheory.Cardinal.Finite`, if that works?

Comment (riccardobrasca) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:66]: You can also just create a new file if finding the right place is to annoying.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Done.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: That's what I did.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 14]
```diff
@@ -0,0 +1,313 @@
...
+      x.trans (Function.Embedding.ofSurjective (⇑f) hf)
+    have aux_apply (x : n ↪ β) (i : n) : f.toFun (aux x i) = x i := by
+      simp only [trans_apply, aux]
+      apply Function.surjInv_eq
+    obtain ⟨g, hg⟩ := exists_smul_eq (M := G) (aux x) (aux y)
+    use σ g
+    ext i
+    rw [DFunLike.ext_iff] at hg
+    rw [smul_apply]
+    simp only [← aux_apply, ← hg, smul_apply, MulActionHom.map_smul']
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:123]:
```suggestion
    simp [← aux_apply, ← hg, MulActionHom.map_smul']
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 15]
```diff
@@ -0,0 +1,313 @@
...
+theorem is_zero_pretransitive' :
+    IsMultiplyPretransitive G α 0 := inferInstance
+
+
+end Zero
+
+section One
+
+/-- The equivalence `one ↪ α` with `α`, for `Unique one`. -/
+def _root_.Function.Embedding.oneEmbeddingEquiv {one : Type*} [Unique one] : (one ↪ α) ≃ α where
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:149]: This (and probably the results below) can go to `Mathlib.Logic.Embedding.Basic`.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 16]
```diff
@@ -0,0 +1,313 @@
...
+    (one ↪ α) →[G] α := {
+  oneEmbeddingEquiv with
+  map_smul' _ _ := rfl }
+
+@[to_additive]
+theorem _root_.MulActionHom.oneEmbeddingMap_bijective {one : Type*} [Unique one] :
+    Function.Bijective (oneEmbeddingMap (one := one) (G := G) (α := α)) :=
+  oneEmbeddingEquiv.bijective
+
+/-- An action is 1-pretransitive iff it is pretransitive. -/
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:169]:
```suggestion
/-- An action is `1`-pretransitive iff it is pretransitive. -/
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 17]
```diff
@@ -0,0 +1,313 @@
...
+@[to_additive]
+theorem oneEmbedding_isPretransitive_iff {one : Type*} [Unique one] :
+    IsPretransitive G (one ↪ α) ↔ IsPretransitive G α :=
+  isPretransitive_congr Function.surjective_id oneEmbeddingMap_bijective
+
+/-- An action is 1-pretransitive iff it is pretransitive. -/
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:175]:
```suggestion
/-- An action is `1`-pretransitive iff it is pretransitive. -/
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 18]
```diff
@@ -0,0 +1,313 @@
...
+theorem is_one_pretransitive_iff :
+    IsMultiplyPretransitive G α 1 ↔ IsPretransitive G α :=
+  oneEmbedding_isPretransitive_iff
+
+end One
+
+section Two
+
+/-- Two distinct elements of `α` give an embedding `Fin 2 ↪ α`. -/
+def _root_.Function.Embedding.embFinTwo {a b: α} (h : a ≠ b) : Fin 2 ↪ α where
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:186]: This (and the two results below) should be somewhere else, maybe in the new file.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 19]
```diff
@@ -0,0 +1,313 @@
...
+theorem _root_.Function.Embedding.embFinTwo_apply_zero
+    {a b : α} (h : a ≠ b) : embFinTwo h 0 = a := rfl
+
+theorem _root_.Function.Embedding.embFinTwo_apply_one
+    {a b : α} (h : a ≠ b) : embFinTwo h 1 = b := rfl
+
+/-- An action is 2-pretransitive iff
+it can move any two distinct elements to any two distinct elements. -/
+@[to_additive "An additive action is 2-pretransitive iff
+it can move any two distinct elements to any two distinct elements."]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:208]:
```suggestion
/-- An action is `2`-pretransitive iff
it can move any two distinct elements to any two distinct elements. -/
@[to_additive "An additive action is `2`-pretransitive iff
it can move any two distinct elements to any two distinct elements."]
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 20]
```diff
@@ -0,0 +1,313 @@
...
+  · intro H
+    exact {
+      exists_smul_eq j j' := by
+        obtain ⟨g, h, h'⟩ :=
+          H (j.injective.ne_iff.mpr Fin.zero_ne_one) (j'.injective.ne_iff.mpr Fin.zero_ne_one)
+        use g
+        ext i
+        by_cases hi : i = 0
+        · simp [hi, h]
+        · simp [eq_one_of_ne_zero i hi, h'] }
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:227]:
```suggestion
  · intro H
    constructor
    intro j j'
    obtain ⟨g, h, h'⟩ :=
      H (j.injective.ne_iff.mpr Fin.zero_ne_one) (j'.injective.ne_iff.mpr Fin.zero_ne_one)
    use g
    ext i
    by_cases hi : i = 0
    · simp [hi, h]
    · simp [eq_one_of_ne_zero i hi, h']
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 21]
```diff
@@ -0,0 +1,313 @@
...
+
+/-- A 2-pretransitive action is pretransitive. -/
+@[to_additive "A 2-pretransitive additive action is pretransitive."]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:230]:
```suggestion
/-- A `2`-pretransitive action is pretransitive. -/
@[to_additive "A `2`-pretransitive additive action is pretransitive."]
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 22]
```diff
@@ -0,0 +1,313 @@
...
+    [h2 : IsMultiplyPretransitive G α 2] : IsPretransitive G α where
+  exists_smul_eq a b := by
+    by_cases h : a = b
+    · exact ⟨1, by simp [h]⟩
+    · rw [is_two_pretransitive_iff] at h2
+      obtain ⟨g, h, _⟩ := h2 h (Ne.symm h)
+      exact ⟨g, h⟩
+
+/-- A 2-transitive action is primitive. -/
+@[to_additive "A 2-transitive additive action is primitive." ]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:241]:
```suggestion
/-- A `2`-transitive action is primitive. -/
@[to_additive "A `2`-transitive additive action is primitive." ]
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 23]
```diff
@@ -0,0 +1,313 @@
...
+
+This version allows `α` to be infinite and uses `ENat.card`.
+For `Finite α`, use `MulAction.isMultiplyPretransitive_of_le` -/
+@[to_additive
+"If `α` has at least n elements, then any n-pretransitive action on `α`
+is m-pretransitive for any m ≤ n.
+
+This version allows `α` to be infinite and uses `ENat.card`.
+For `Finite α`, use `AddAction.isMultiplyPretransitive_of_le`."]
+theorem isMultiplyPretransitive_of_le' {m n : ℕ} [IsMultiplyPretransitive G α n]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:287]:
```suggestion
/-- If `α` has at least `n` elements, then any `n`-pretransitive action on `α`
is `m`-pretransitive for any `m ≤ n`.

This version allows `α` to be infinite and uses `ENat.card`.
For `Finite α`, use `MulAction.isMultiplyPretransitive_of_le` -/
@[to_additive
"If `α` has at least `n` elements, then any `n`-pretransitive action on `α`
is `m`-pretransitive for any `m ≤ n`.

This version allows `α` to be infinite and uses `ENat.card`.
For `Finite α`, use `AddAction.isMultiplyPretransitive_of_le`."]
theorem isMultiplyPretransitive_of_le' {m n : ℕ} [IsMultiplyPretransitive G α n]
```

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 24]
```diff
@@ -0,0 +1,313 @@
...
+
+/-- If α has at least n elements, then an n-pretransitive action
+is m-pretransitive for any m ≤ n.
+
+For an infinite `α`, use `MulAction.isMultiplyPretransitive_of_le'`. -/
+@[to_additive
+"If α has at least n elements, then an n-pretransitive action
+is m-pretransitive for any m ≤ n.
+
+For an infinite `α`, use `MulAction.isMultiplyPretransitive_of_le'`."]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:303]:
```suggestion
/-- If `α` has at least `n` elements, then an `n`-pretransitive action
is `m`-pretransitive for any `m ≤ n`.

For an infinite `α`, use `MulAction.isMultiplyPretransitive_of_le'`. -/
@[to_additive
"If `α` has at least `n` elements, then an `n`-pretransitive action
is `m`-pretransitive for any `m ≤ n`.

For an infinite `α`, use `MulAction.isMultiplyPretransitive_of_le'`."]
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean:149]: The first went there. For the two other, I still need to find a place for them.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Finally, I left them here. The point is that the initial files do not yet allow equivariant maps.

Comment (riccardobrasca) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: OK, no problem.

**Comment by AntoineChambert-Loir** [comment]
bors d+
